US03993645
Following the procedure given in Example 1b 2-(p-tolyl)-6-methoxybenzofuran was interacted with an equimolar quantity or benzalaniline to produce 2-(4-stilbenyl)-6-methoxybenzofuran, which, when recrystallized from toluene, melted at 223.5°-225.5° C. The wavelength of maximum excitation of this compound was 371 nm., and the wavelength of maximum emission was 446 nm.

reactant | 2-(p-tolyl)-6-methoxybenzofuran | C1(=CC=C(C=C1)C=1OC2=C(C1)C=CC(=C2)OC)C | C16H14O2
reactant | benzalaniline | C(C1=CC=CC=C1)=NC1=CC=CC=C1 | C13H11N
product | 2-(4-stilbenyl)-6-methoxybenzofuran | C1(=CC=C(C=C1)C=1OC2=C(C1)C=CC(=C2)OC)C=CC2=CC=CC=C2 | C23H18O2
